US08426466B2
Synthesis of N-n-hexyl 2,5-dihydroxybenzamide
Methyl 2,5-dihydroxybenzoate (1 g) is dissolved in 10 mL of n-hexylamine. After overnight heating in an oil bath (60° C.), the mixture is cooled to room temperature. n-Hexylamine is removed under reduced pressure. The residue is dissolved in ethyl acetate and further extracted with 1 N HCl. The organic layer is extracted with saturated sodium bicarbonate and dried over anhydrous sodium sulfate. Solvent is removed under reduced pressure to yield the product as an off-white powder.

reactant | Methyl 2,5-dihydroxybenzoate | 1 g | OC1=C(C(=O)OC)C=C(C=C1)O | C8H8O4
reactant | n-hexylamine | 10 mL | C(CCCCC)N | C6H15N
product | N-n-hexyl 2,5-dihydroxybenzamide | C(CCCCC)NC(C1=C(C=CC(=C1)O)O)=O | C13H19NO3
